US04914112
To the mixture of 2-(3-benzoylphenyl) propionic acid (3.00 g, 11.8 mmol), 1,1-dimethylamino-2-hydroxyguanidine hydrochloride (1.98 g, 14.2 mmol), N-hydroxybenztriazole (1.91 g, 14.2 mmol) and dicyclohexylcarbodiimide (2.92 g, 14.2 mmol) in N,N-dimethylformamide (100 ml) were added triethylamine (1.43 g, 14.2 mmol). After the addition, the mixture was stirred at room temperature for 12 hr, then filterated. The filterates were evaporated under reduced pressure to a residue, which was chlomatographed to afford 3-dimethylamino-5-(1-(3-benzoylphenyl)ethyl)-1,2,4-oxadiazole (2.00 g, 53% yield); NMR(CDCl3)δ 1.27(d, 3H), 3.00(s, 6H), 4.32(q, 1H), 7.30-7.99(m, 9H) ppm; IR(neat) 1660, 1595, 1400, 1280 cm-1.

reactant | 2-(3-benzoylphenyl) propionic acid | 11.8 mmol, 3.00 g | C(C1=CC=CC=C1)(=O)C=1C=C(C=CC1)C(C(=O)O)C | C16H14O3
reactant | 1,1-dimethylamino-2-hydroxyguanidine hydrochloride | 14.2 mmol, 1.98 g | Cl.CNN(C(=NO)N)NC
reactant | N-hydroxybenztriazole | 14.2 mmol, 1.91 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 14.2 mmol, 2.92 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | triethylamine | 14.2 mmol, 1.43 g | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 3-dimethylamino-5-(1-(3-benzoylphenyl)ethyl)-1,2,4-oxadiazole | 2.00 g, 53% yield | CN(C1=NOC(=N1)C(C)C1=CC(=CC=C1)C(C1=CC=CC=C1)=O)C | C19H19N3O2
